US08084629B2
A solution of (−)-B-chlorodiisopinocampheylborane [(−)-DIP-Chloride™] (2.10 g, 6.55 mmoles) in toluene (7 ml) is cooled to 0° C. under nitrogen atmosphere. On the magnetically stirred solution is added in 3 hours a solution of 2-chloro-1-(6-fluoro-3,4-dihydro-2H-chromen-2-yl)ethanone (1.0 g, 4.373 mmoles) in toluene (3 ml). At the end of the addition, the mixture is stirred at 0° C. for further 20 hours. On the reaction mixture is added acetone (0.5 g), followed by a 10% w/w (5 ml) aqueous solution of sodium carbonate, and then demi water (5 ml). The reactive mixture is heated to 20° C. at the end of the additions and transferred in a separator funnel. The mixture is diluted with demi water (5 ml) and toluene (5 ml) and phases are separated. The organic layer is then washed with additional demi water (15 ml) and concentrated and anhydrified under vacuum to obtain crude (S*)-2-chloro-1-((R*)-6-fluoro-3,4-dihydro-2H-chromen-2-yl)-ethanol (98% de via GC). The product is purified by chromatography on silica using a toluene:ethyl acetate 9.5:0.5 eluting mixture. After separation, the product (S*)-2-chloro-1-((R*)-6-fluoro-3,4-dihydro-2H-chromen-2-yl)-ethanol is isolated as a colorless oil (0.31 g, 31%).

reactant | (−)-B-chlorodiisopinocampheylborane | 6.55 mmoles, 2.10 g | B([C@@H]1C[C@@H]2C[C@H]([C@H]1C)C2(C)C)([C@@H]3C[C@@H]4C[C@H]([C@H]3C)C4(C)C)Cl | C20H34BCl
reactant | 2-chloro-1-(6-fluoro-3,4-dihydro-2H-chromen-2-yl)ethanone | 4.373 mmoles, 1.0 g | ClCC(=O)C1OC2=CC=C(C=C2CC1)F | C11H10ClFO2
reactant | acetone | 0.5 g | CC(=O)C | C3H6O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 5 ml | O | H2O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 5 ml | O | H2O
product | (S*)-2-chloro-1-((R*)-6-fluoro-3,4-dihydro-2H-chromen-2-yl)-ethanol | ClC[C@@H](O)[C@@H]1OC2=CC=C(C=C2CC1)F | C11H12ClFO2
